US09085578B2
A) N-(3-methylbutan-2-yl)-3-oxobutanamide
To a mixture of 3-methylbutan-2-amine (1.00 g), 2,2,6-trimethyl-4H-1,3-didioxin-4-one (2.12 g) and tetrahydrofuran (3.0 mL) was added sodium acetate (941 mg) at room temperature. The reaction mixture was refluxed overnight, and cooled to room temperature. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (1.46 g).

reactant | 3-methylbutan-2-amine | 1.00 g | CC(C(C)N)C | C5H13N
reactant | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
reactant | sodium acetate | 941 mg | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | N-(3-methylbutan-2-yl)-3-oxobutanamide | 1.46 g | CC(C(C)NC(CC(C)=O)=O)C | C9H17NO2
